US07612114B2
6-{2-{2-[4-(2-Diisopropylaminoethoxy)phenyl]ethyl}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 4-{2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]ethyl}phenol and (2-chloroethyl)diisopropylamine hydrochloride according to an analogous synthetic method to Preparation Example 40, diisopropyl{2-{4-{2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]ethyl}phenoxy}ethyl}amine (183 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (62 mg).

reactant | 4-{2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]ethyl}phenol | COC=1C=CC(=C(C1)CCC1=CC=C(C=C1)O)C1CC2=CC=C(C=C2CC1)OC | C26H28O3
reactant | (2-chloroethyl)diisopropylamine hydrochloride | Cl.ClCCN(C(C)C)C(C)C
reactant | diisopropyl{2-{4-{2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]ethyl}phenoxy}ethyl}amine | 183 mg | C(C)(C)N(CCOC1=CC=C(C=C1)CCC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC)C(C)C | C34H45NO3
product | 6-{2-{2-[4-(2-Diisopropylaminoethoxy)phenyl]ethyl}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 62 mg | C(C)(C)N(CCOC1=CC=C(C=C1)CCC1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O)C(C)C | C32H41NO3
